US06096782
Synthesis of N-[N-(quinolin-3-yl)-D,L-alanyl]-(S)-2-aminohexanoic acid methyl ester
Using General Procedure G, followed by hydrolysis set forth in General Procedure C, N-(quinolin-3-yl)-D,L-alanine was prepared. This compound was then coupled to L-norleucine methyl ester hydrochloride (Sigma) using General Procedure D to provide for the title compound as an oil. The latter reaction was monitored by tlc (Rf=0.76 in 10% methanol/methylene chloride and 0.07 in 1:1 EtOAc:Hexanes and the product was purified by flash chromatography using 10% methanol/methylene chloride as the eluent.

reactant | N-(quinolin-3-yl)-D,L-alanine | N1=CC(=CC2=CC=CC=C12)NC(C)C(=O)O | C12H12N2O2
reactant | L-norleucine methyl ester hydrochloride | Cl.COC([C@@H](N)CCCC)=O
product | N-[N-(quinolin-3-yl)-D,L-alanyl]-(S)-2-aminohexanoic acid methyl ester | COC([C@H](CCCC)NC(C(NC=1C=NC2=CC=CC=C2C1)C)=O)=O | C19H25N3O3
